US03957782
b. 1-Ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride
31.3 g. of 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]-pyrazine-5-carboxylic acid (0.15 mol.) are carefully added in portions to 300 ml. of thionyl chloride. As soon as the gas evolution has ceased, the mixture is heated at reflux for 3 hours. After removal of excess thionyl chloride under vacuum, the residue is dissolved in benzene. Evaporation of the benzene provides 30.5 g. (90%) of amorphous 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride which is used without further purification.

reactant | 1-ethyl-6-hydroxy-1H-pyrazolo[3,4-b]-pyrazine-5-carboxylic acid | 0.15 mol | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)O)O | C8H8N4O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-Ethyl-6-hydroxy-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride | C(C)N1N=CC=2C1=NC(=C(N2)C(=O)Cl)O | C8H7ClN4O2
